US06610685B2
d) 2,3-Dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol
187.5 mL of a 1.6M solution of n-butyllithium (0.30 mol) in n-hexane was added over 20 min to a cooled (−78° C.) solution of 47.2 g 6-bromo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene (0.20 mol) in 800 mL tetrahydrofuran. The resulting beige suspension was warmed to −50° C. and stirred at this temperature for 45 min. The mixture was cooled to −78° C., and 92.0 mL (0.40 mol) triisoproyl-borate was added over 10 min. The mixture was stirred 30 min at −78° C. and allowed to warm to 0° C. over 30 min. The slightly turbid mixture was stirred at 0-10° C. for 15 min and 100 mL (0.875 mol) 50% acetic acid were added dropwise. To the resulting solution were added over 15 min 30 mL of a 35% hydrogen peroxide solution (0.31 mol) at a temperature of 0-5° C. The mixture was stirred at 0° C. for 30 min and at room temperature for 1 h. The reaction mixture was diluted with 2500 mL diethyl ether and 1000 mL water. The phases were separated and the organic phase was washed with 1000 mL water, twice with 1000 mL 5% sodium thiosulfate, again with 1000 mL water and finally with 1000 mL brine, dried over sodium sulfate and concentrated under aspirator vacuum. The solid residue was stirred with 500 mL n-hexane for 1 h. The product was collected by filtration and dried to constant weight under aspirator vacuum at room temperature to yield 32.56 g (94%) of the title compound as beige crystals melting at 116-118° C.

reactant | n-butyllithium | 0.30 mol | C(CCC)[Li]
reactant | 6-bromo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 0.20 mol, 47.2 g | BrC1=CC=2C=C3N(C2C=C1)CCC3 | C11H10BrN
reactant | triisoproyl-borate | 0.40 mol, 92.0 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | acetic acid | 0.875 mol, 100 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.31 mol | OO | H2O2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 2500 mL | C(C)OCC | C4H10O
solvent | water | 1000 mL | O | H2O
product | 2,3-Dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol | 32.56 g, 94% | C1CCN2C1=CC=1C=C(C=CC21)O | C11H11NO
